US04301152
6-Deoxy-6-phthalimido-D-galactopyranose (2.9 g.) is acetylated with acetic anhydride (12 ml.) in pyridine (20 ml.) in the normal manner to give 1,2,3,4-tetra-O-acetyl-6-deoxy-6-phthalimido-D-galactopyranose (4.30 g., 96%) as a mixture of α- and β-anomers in the ratio of 1:1.6, [α]D27 +52.5° C. (C 1.0, chloroform); n.m.r. (chloroform-d): δ 5.70 (d, J1,2 8.0 Hz, H-1β), 6.33 (b, H-1α).

reactant | 6-Deoxy-6-phthalimido-D-galactopyranose | 2.9 g | C1(C=2C(C(N1C[C@@H]1[C@@H]([C@@H]([C@H](C(O)O1)O)O)O)=O)=CC=CC2)=O | C14H15NO7
reactant | acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1,2,3,4-tetra-O-acetyl-6-deoxy-6-phthalimido-D-galactopyranose | 4.30 g, 96% | C(C)(=O)OC1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O1)CN1C(C=2C(C1=O)=CC=CC2)=O | C22H23NO11
